US05646173
12.6 ml of methanesulfonyl chloride were added dropwise while stirring to a solution, cooled to 0°, of 12.0 g of 6-hydroxy-1-indanone and 45.2 ml of triethylamine in 350 ml of dichloro-methane and the solution was stirred at this temperature for an additional 1.5 hours. The reaction mixture was subsequently diluted with 200 ml of dichloromethane, washed twice with 150 ml of saturated sodium hydrogen carbonate solution each time an the combined aqueous phases were extracted once with 100 ml of dichloromethane. The combined organic phases were washed with 200 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated in a vacuum. 18.3 g (99%) of 6-mesyloxy-1-indanone were obtained as a brown solid which was used directly in the next reaction.

reactant | methanesulfonyl chloride | 12.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-hydroxy-1-indanone | 12.0 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | triethylamine | 45.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloro-methane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 6-mesyloxy-1-indanone | 18.3 g, 99% | S(=O)(=O)(C)OC1=CC=C2CCC(C2=C1)=O | C10H10O4S
